US06316466B1
A mixture of 4-fluorophenylhydrazine (2.24 g, 15.57 mmol) and 2-(3-nitrobenzoyl)-3-phenylaminoacrylonitrile (4.15 g, 14.16 mmol) in ethanol (50 ml) was heated at reflux under nitrogen atmosphere. After 1 h, the reaction mixture was cooled to room temperature and stirred for an additional 3 h. The solid was filtered and dried to give 5-amino-1-(4-fluorophenyl)-4-(3-nitrobenzoyl)pyrazole (4.5 g) as a solid.

reactant | 4-fluorophenylhydrazine | 15.57 mmol, 2.24 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | 2-(3-nitrobenzoyl)-3-phenylaminoacrylonitrile | 14.16 mmol, 4.15 g | [N+](=O)([O-])C=1C=C(C(=O)C(C#N)=CNC2=CC=CC=C2)C=CC1 | C16H11N3O3
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-amino-1-(4-fluorophenyl)-4-(3-nitrobenzoyl)pyrazole | 4.5 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H11FN4O3
